US07256198B2
8-Amino-7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To a suspension of finely ground 7-chloro-8-nitro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one (0.200 g, 0.753 mmol ) in EtOAc (10 mL) was added SnCl2.2H2O and the mixture was heated at reflux for 1.75 hr after which DMF (2 mL) was added and the reaction proceeded quickly. The reaction was cooled to room temperature and quenched with sat. aq. NaHCO3 (25 mL ). EtOAc (25 mL ) was added and the mixture was stirred for 0.5 hr then filtered. The biphasic layers were separated and the aqueous layer was extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (94/4/2) to give the title compound as a black solid (0.029 g, 16% yield). Anal. Calc'd for C11H10ClN3O: C, 56.06% , H, 4.28% ; N, 17.83% . Found: C, 55.81% ; H, 4.17% ; N, 17.54% . NMR (300 Mz, DMSO-d6): consistent. MS: (ES−) 238 [M−H]. m.p.>270° C.

reactant | 7-chloro-8-nitro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.753 mmol, 0.200 g | ClC=1C(=CC=2C(C=3N(C2C1)CCCN3)=O)[N+](=O)[O-] | C11H8ClN3O3
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 8-Amino-7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.029 g, 16% yield | NC1=CC=2C(C=3N(C2C=C1Cl)CCCN3)=O | C11H10ClN3O
